US04837236
3-Methoxymethylpyridine (1.75 g) was added to 3-(m-phenoxyphenyl)-2-methylpropyl iodide (1.0 g) at room temperature, and the resultant mixture was stirred at 120° C. for 4 hours. The reaction mixture was cooled to room temperature and washed with diethyl ether three times. Methanol (20 ml) was added thereto, and after addition of sodium borohydride (0.21 g) at room temperature, the resultant mixture was stirred at the same temperature for 15 hours. The resultant mixture was admixed with water (200 ml) and 15% aqueous sodium hydroxide solution (20 ml) and extracted with diethyl ether (50 ml×3). The extracts were combined together, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography to give N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethyl-1,2,5,6-tetrahydropyridine (0.2 g).

reactant | 3-Methoxymethylpyridine | 1.75 g | COCC=1C=NC=CC1 | C7H9NO
reactant | 3-(m-phenoxyphenyl)-2-methylpropyl iodide | 1.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CI)C | C16H17IO
product | N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethyl-1,2,5,6-tetrahydropyridine | 0.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CN1CC(=CCC1)COC)C | C23H29NO2
